US06436152B1
3.3 g (0.01 mol) (4-tert.butoxycarbonylamino-3-bromophenyl)carbamic acid-tert.-butyl ester are dissolved in 200 ml diethyl ether under argon. Then first 20 ml of a 1.6 molar methyl lithium solution are added at −25° C. and then 16 ml of a 1.6 molar tert.-butyl lithium solution are added. After one hour 1.2 ml (0.02 mol) of acetaldehyde are added and the reaction mixture is slowly heated to 20° C. After halting the reaction the reaction mixture is hydrolyzed with water, the organic phase is extracted with dilute sodium hydroxide and then dried with magnesium sulfate. The solvent is distilled off in a rotary evaporator and the residue is purified with petroleum ether/acetic acid ethyl ester (8:2). 3.0 g (85% of theoretical) of (4-tert.-butoxycarbonylamino-3-(1-hydroxyethyl)phenyl)carbamic acid-tert.-butyl ester having a melting point of 189° C. are obtained.

reactant | (4-tert.butoxycarbonylamino-3-bromophenyl)carbamic acid-tert.-butyl ester | 0.01 mol, 3.3 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)NC(=O)OC(C)(C)C)Br)=O | C16H23BrN2O4
reactant | methyl lithium | 1.6 molar | C[Li]
reactant | tert.-butyl lithium | 1.6 molar | C(C)(C)(C)[Li]
reactant | acetaldehyde | 0.02 mol, 1.2 ml | C(C)=O | C2H4O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | (4-tert.-butoxycarbonylamino-3-(1-hydroxyethyl)phenyl)carbamic acid-tert.-butyl ester | 3.0 g, 85% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C(C)O)=O | C18H28N2O5
